US07956140B2
Synthesis of the Ligand 2-(2,6-dimethyl-phenyl)-2,3-dihydro-isoindol-1-ylideneamine hydrobromide
2,6-dimethylaniline (6.2 g, 51 mmol) was added to a solution of 2-cyanobenzylbromide (10.0 g, 51 mmol) in toluene (250 ml). The solution was heated to reflux for 18 hours. The formed solid was filtered off and washed with toluene (2×25 ml). After drying 11.5 g of the desired compound was obtained as a white solid. The filtrate was heated to reflux for 20 hours. Another 1.5 g of pure product was obtained leading to a total yield of 13.0 g (80%). The product was characterized by

reactant | 2,6-dimethylaniline | 51 mmol, 6.2 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | 2-cyanobenzylbromide | 51 mmol, 10.0 g | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-dimethyl-phenyl)-2,3-dihydro-isoindol-1-ylideneamine hydrobromide | 1.5 g | Br.CC1=C(C(=CC=C1)C)N1C(C2=CC=CC=C2C1)=N | InChI=1S/C16H16N2.BrH/c1-11-6-5-7-12(2)15(11)18-10-13-8-3-4-9-14(13)16(18)17;/h3-9,17H,10H2,1-2H3;1H
